US08486940B2
(S)-3-(1H-benzo[d]imidazol-5-yl)-4-(4-(dicyclopropylamino)phenyl)oxazolidin-2-one
Boc carbamate (2.17 g, 18.60 mmol), (DHQ)2PHAL (240 mg, 0.309 mmol), potassium osmate dihydrate (90 mg, 0.247 mmol), Thionyl chloride (0.439 mL, 6.024 mmol), 4-bromo-1,2-diamino benzene (130 mg, 0.697 mmol), cesium fluoride (212 mg, 1.395 mmoles) and copper iodide (20 mg, 0.104 mmoles), 1,2-diaminocyclohexane (1 mL), formamidine acetate (23 mg, 0.219 mmoles). Yield: 0.03 g (0.6%). MS m/z 375.3 (M+H)+; 1H-NMR 400 MHz, CDCl3): δ 7.94 (s, 1H); 7.67 (s, 1H); 7.52 (s, 1H); 7.15 (d, 3H); 6.96 (d, 2H); 5.34 (q, 1H); 4.77 (t, 1H); 4.27 (q, 1H); 2.40-2.38 (t, 1H); 0.88-0.80 (m, 4H); 0.64-0.63 (m, 4H); HPLC (λ=214 nm, [A]: rt 14.39 min (95%).

reactant | Boc carbamate | 18.60 mmol, 2.17 g | C(N)(OC(=O)OC(C)(C)C)=O | C6H11NO4
reactant | (DHQ)2PHAL | 0.309 mmol, 240 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Thionyl chloride | 6.024 mmol, 0.439 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromo-1,2-diamino benzene | 0.697 mmol, 130 mg | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
reactant | cesium fluoride | 1.395 mmoles, 212 mg | [F-].[Cs+]
reactant | 1,2-diaminocyclohexane | 1 mL | NC1C(CCCC1)N | C6H14N2
reactant | formamidine acetate | 0.219 mmoles, 23 mg | C(C)(=O)O.C(=N)N
catalyst | copper iodide | 0.104 mmoles, 20 mg | [Cu](I)I
product | (S)-3-(1H-benzo[d]imidazol-5-yl)-4-(4-(dicyclopropylamino)phenyl)oxazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(OC[C@@H]2C2=CC=C(C=C2)N(C2CC2)C2CC2)=O | C22H22N4O2
